* Z:\mnt\design.r\spice\examples\1176.asc
V1 IN 0 10
L1 N001 OUT 100µ
D1 0 N001 1N5819
R1 OUT N004 2.8K
R2 N004 0 2.2K
C1 OUT 0 470µ Rser=.1
R3 N006 N007 2.8K
C2 0 N007 .01µ
XU1 IN N005 0 N004 N003 N002 N006 N001 LT1176 top=10 bot=1G
R4 OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 5m startup
.lib LT1176.sub
.backanno
.end
